US07405300B2
2-Chloro-1-phenyl-1H-indole-3-carboxaldehyde is reacted with 2,6-dimethylpiperazine as described in Step 2 of Example 29 to afford 2-(3,5-dimethylpiperazin-1-yl)-1-phenyl-1H-indole-3-carboxaldehyde as a solid. The solid is dissolved in methanol, treated with 1M ethereal hydrochloric acid and concentrated. The residue triturated with ether to give 2-(3,5-dimethylpiperazin-1-yl)-1-phenyl-1H-indole-3-carboxaldehyde hydrochloride (74% yield) as a purple solid. ESI/MS 334 (M+H); RT=2.52 min.

reactant | 2-Chloro-1-phenyl-1H-indole-3-carboxaldehyde | ClC=1N(C2=CC=CC=C2C1C=O)C1=CC=CC=C1 | C15H10ClNO
reactant | 2,6-dimethylpiperazine | CC1NC(CNC1)C | C6H14N2
product | 2-(3,5-dimethylpiperazin-1-yl)-1-phenyl-1H-indole-3-carboxaldehyde | CC1CN(CC(N1)C)C=1N(C2=CC=CC=C2C1C=O)C1=CC=CC=C1 | C21H23N3O
